US09023847B2
95. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 3,5-dimethoxy-benzylamide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using 3,5-dimethoxybenzylamine instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 409 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.30 (1H, s) 8.65 (1H, t, J=5.95 Hz) 8.03 (1H, d, J=5.42 Hz) 7.80 (1H, d, J=5.42 Hz) 7.50 (1H, d, J=5.42 Hz) 7.30 (1H, dd, J=3.32, 2.20 Hz) 6.84 (1H, d, J=5.47 Hz) 6.48 (2H, d, J=2.25 Hz) 6.42 (1H, dd, J=3.44, 1.44 Hz) 6.37 (1H, t, J=2.27 Hz) 4.39 (2H, d, J=6.00 Hz) 3.70 (6H, s)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 3,5-dimethoxybenzylamine | COC=1C=C(CN)C=C(C1)OC | C9H13NO2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 3,5-dimethoxy-benzylamide | COC=1C=C(CNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C(C1)OC | C21H20N4O3S
